US03947470
3-[2-(2-Diethylaminoethoxy)benzoyl]-2-phenylbenzofuran
Acylation of 2-phenylbenzofuran with 2-(2-diethylaminoethoxy)benzoyl chloride hydrochloride by the procedure described in Example 6 gives the title compound.

reactant | 2-phenylbenzofuran | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C14H10O
reactant | 2-(2-diethylaminoethoxy)benzoyl chloride hydrochloride | Cl.C(C)N(CCOC1=C(C(=O)Cl)C=CC=C1)CC
product | 3-[2-(2-Diethylaminoethoxy)benzoyl]-2-phenylbenzofuran | C(C)N(CCOC1=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=CC=C1)CC | C27H27NO3
